US07001897B2
(2) p-Nitrobenzyl (1R,5S,6S)-2-[1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate
To a solution of p-nitrobenzyl (1R,5S,6S)-2-[1-(4-t-butyldimethylsilyloxymethyl-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (719 mg, 1.09 mmol) (obtained as described in Example 20(1)) in anhydrous tetrahydrofuran (36 ml) were added sequentially acetic acid (0.19 ml, 3.3 mmol) and a solution of tetra-n-butylammonium fluoride in tetrahydrofuran (3.3 ml, 3.3 mmol) in an ice bath. The resulting mixture was stirred at room temperature overnight. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate and the aqueous layer was further extracted with ethyl acetate. The organic layers were washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and the filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate: methanol (15:1) as the eluant to afford the desired compound p-nitrobenzyl (1R,5S,6S)-2-[1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (426.2 mg, yield 72%) as a yellow syrup.

reactant | p-nitrobenzyl (1R,5S,6S)-2-[1-(4-t-butyldimethylsilyloxymethyl-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 1.09 mmol, 719 mg | [Si](C)(C)(C(C)(C)C)OCC=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C30H40N4O7S2Si
reactant | acetic acid | 3.3 mmol, 0.19 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.3 mmol, 3.3 ml | O1CCCC1 | C4H8O
product | p-nitrobenzyl (1R,5S,6S)-2-[1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 426.2 mg, yield 72% | OCC=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C24H26N4O7S2
